US08349880B2
Step B (1): A mixture of 3-methyl-1H-1,2,4-triazole (2.20 g, 26.4 mmol), 1,5-difluoro-2-methoxy-4-nitrobenzene (5.00 g, 26.4 mmol), and potassium carbonate (3.65 g, 26.4 mmol) in anhydrous DMSO (50 mL) was heated at 80° C. for 24 h. The reaction mixture was allowed to cool to rt and was poured into 500 mL of water/10 mL brine solution. The aqueous mixture was extracted with EtOAc (2×250 mL). The combined organic extracts were washed with water (500 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The crude reaction mixture was purified using silica gel column chromatography (50% EtOAc/hexane) to afford 1-(5-fluoro-2-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (1.24 g, 18% yield). LC-MS (M+H)+=253.2. 1H NMR (500 MHz, chloroform-d) δ ppm 8.95 (s, 1 H) 8.00 (d, J=11.60 Hz, 1 H) 7.80 (d, J=6.10 Hz, 1 H) 4.09 (s, 3 H) 2.50 (s, 3 H).

reactant | 3-methyl-1H-1,2,4-triazole | 26.4 mmol, 2.20 g | CC1=NNC=N1 | C3H5N3
reactant | 1,5-difluoro-2-methoxy-4-nitrobenzene | 26.4 mmol, 5.00 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])OC | C7H5F2NO3
reactant | potassium carbonate | 26.4 mmol, 3.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 1-(5-fluoro-2-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | 1.24 g, 18% yield | FC=1C(=CC(=C(C1)N1N=C(N=C1)C)OC)[N+](=O)[O-] | C10H9FN4O3
